US07666888B2
5-(2-Chlorophenyl)-4-{[3-(4-methylbenzyl)pyrrolidin-1-yl]carbonyl}isoxazole
The title compound was prepared from 5-(2-chlorophenyl)isoxazole-4-carboxylic acid (11.2 mg, 0.050 mmol) and 3-(4-methylbenzyl)pyrrolidine hydrochloride (12.7 mg, 0.060 mmol) as described in synthetic method C and thereafter purified by preparative HPLC method B to give a solid (8.4 mg). Calcd for C22H21N2O2: 380.1292, found 380.1296.

reactant | 5-(2-chlorophenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 11.2 mg | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)O | C10H6ClNO3
reactant | 3-(4-methylbenzyl)pyrrolidine hydrochloride | 0.060 mmol, 12.7 mg | Cl.CC1=CC=C(CC2CNCC2)C=C1
product | 5-(2-Chlorophenyl)-4-{[3-(4-methylbenzyl)pyrrolidin-1-yl]carbonyl}isoxazole | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)N1CC(CC1)CC1=CC=C(C=C1)C | C22H21ClN2O2
